US06656952B2
7-[3-(S)-Amino-4-(S)-fluoromethyl-1-pyrrolidinyl]-1-cyclopropyl-6-fluoro-1,4-dihydro-8-methoxy-4-oxoquinoline-3-carboxylic acid
Concentrated hydrochloric acid (2 ml) was added to 7-[3-(S)-tert-butoxycarbonylamino-4-(S)-fluoromethyl-1-pyrrolidinyl]-1-cyclopropyl-6-fluoro-1,4-dihydro-8-methoxy-4-oxoquinoline -3-carboxylic acid (140 mg, 0.28 mmol) which was cooled in an ice bath, and the mixture was stirred for 30 minutes at the same temperature. The reaction solution was diluted with water (50 ml) and washed with chloroform (50 ml×3) and then, while cooling in an ice bath, the aqueous layer was alkalified with 50% sodium hydroxide aqueous solution. The aqueous layer was washed with dichloromethane (50 ml×3), adjusted to pH 7.4 with concentrated hydrochloric acid and 1N hydrochloric acid and then extracted with chloroform (100 ml×3). The organic layer was dried over sodium sulfate, the solvent was evaporated, and the thus obtained residue was purified by its recrystallization from a 28% aqueous ammonia-ethanol mixed solvent to give 94 mg (85%) of the title compound in the form of light yellow crystals.

reactant | hydrochloric acid | 2 ml | Cl | ClH
reactant | 7-[3-(S)-tert-butoxycarbonylamino-4-(S)-fluoromethyl-1-pyrrolidinyl]-1-cyclopropyl-6-fluoro-1,4-dihydro-8-methoxy-4-oxoquinoline -3-carboxylic acid | 0.28 mmol, 140 mg | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H]1CF)C1=C(C=C2C(C(=CN(C2=C1OC)C1CC1)C(=O)O)=O)F | C24H29F2N3O6
solvent | water | 50 ml | O | H2O
product | 7-[3-(S)-Amino-4-(S)-fluoromethyl-1-pyrrolidinyl]-1-cyclopropyl-6-fluoro-1,4-dihydro-8-methoxy-4-oxoquinoline-3-carboxylic acid | 94 mg, 85% | N[C@@H]1CN(C[C@@H]1CF)C1=C(C=C2C(C(=CN(C2=C1OC)C1CC1)C(=O)O)=O)F | C19H21F2N3O4
